US08703815B2
Ethyl 3-(chloromethyl)benzoate (1.192 g, 6 mmol) and triethylphosphite (1.273 mL, 7.2 mmol) were heated to 150° C. for 4 hours. The reaction mixture was cooled to 0° C. and then DMF was added. NaH (60% in oil, 0.252 g, 6.3 mmol) was added to the solution at 0° C. After stirring for 20 minutes, the solution of 4-(methoxymethoxy)-3,5-dimethylbenzaldehyde (4-MOMO-3,5-dimethylbenzaldehyde; 0.583 g, 3 mmol) in DMF was added to the mixture dropwise at 0° C. After 18 hours, the mixture was diluted with ethyl acetate (EtOAc) and the solution was washed with 10% citric acid and brine. After drying on Na2SO4, the organic layer was filtered and concentrated under reduced pressure. The compound was purified by column chromatography (9.5:0.5 Hexane:EtOAc) to afford (E)-ethyl 3-[4-(methoxymethoxy)-3,5-dimethylstyryl]-benzoate (0.726 g, 71%).

reactant | Ethyl 3-(chloromethyl)benzoate | 6 mmol, 1.192 g | ClCC=1C=C(C(=O)OCC)C=CC1 | C10H11ClO2
reactant | triethylphosphite | 7.2 mmol, 1.273 mL | C(C)OP(OCC)OCC | C6H15O3P
reactant | NaH | 6.3 mmol, 0.252 g | [H-].[Na+]
reactant | 4-(methoxymethoxy)-3,5-dimethylbenzaldehyde | 3 mmol, 0.583 g | COCOC1=C(C=C(C=O)C=C1C)C | C11H14O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-ethyl 3-[4-(methoxymethoxy)-3,5-dimethylstyryl]-benzoate | 0.726 g, 71% | COCOC1=C(C=C(/C=C/C=2C=C(C(=O)OCC)C=CC2)C=C1C)C | C21H24O4
